US04940795
To a solution of 2.74 g ethyl 8-ethoxycarbonyl-2-methyl-3-oxo-1-oxa-8-azaspiro[4,5]decane-4-carboxylate in 10 ml N,N-dimethylformamide, were added 512 mg sodium chloride and 315 μl water, and the mixture was heated with stirring for two hours in an oil bath held at 140°-150° C. The reaction mixture was poured into 30 ml ice water, the resulting mixure was extracted with chloroform, and the extract was washed with an aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After distilling off the solvent from the dried solution, the residue was purified by silica gel column chromatography using, as eluent, a mixed solvent of n-hexane/ethyl acetate (1:1 by volume), giving 1.54 g of 8-ethoxycarbonyl-2-methyl-1-oxa-8-azaspiro[4,5]- decane-3-one as oil.

reactant | ethyl 8-ethoxycarbonyl-2-methyl-3-oxo-1-oxa-8-azaspiro[4,5]decane-4-carboxylate | 2.74 g | C(C)OC(=O)N1CCC2(C(C(C(O2)C)=O)C(=O)OCC)CC1 | C15H23NO6
reactant | sodium chloride | 512 mg | [Cl-].[Na+]
reactant | water | 315 μl | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 8-ethoxycarbonyl-2-methyl-1-oxa-8-azaspiro[4,5]- decane-3-one | 1.54 g | C(C)OC(=O)N1CCC2(CC(C(O2)C)=O)CC1 | C12H19NO4
